Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Amoxicillin / Codeine / Latex
 
Attending: ___.
 
Chief Complaint:
Left foot pain/ulcer
 
Major Surgical or Invasive Procedure:
Left toe debridement

 
History of Present Illness:
Mr. ___ is a ___ yo man with ESRD on HD (___), CHF with EF 
of 20%, multiple MSSA infections including paraspinal abscess 
and osteomyelitis who presents with ___ days of L foot pain and 
necrotic ulcer on L ___ toe. He first noted the lesion ___ days 
ago as a blister which his ___ put a bandaid over and instructed 
he and his family to take care of this.  He noted progressive 
worsening of the pain and went to see his PCP who undid the 
bandage and sent him over to the ED.
.
In the ED his vital were 97.4, 100, 111/77, 17, 100% on RA.  He 
was given 1 gm of Vanc and Podietry debrided the ulcer.  Foot 
films show "No evidence of acute fracture or subcutaneous gas".  
He was admitted for 
.
Review of systems: No fevers, chills HA, chest pain, SOB, 
N/V/Diarrhea.  He endorses pain and erythema of L foot. ROS 
otherwise negative
.

 
Past Medical History:
-ESRD of unknown etiology: s/p HD fistula RUE, on HD ___ 
at ___ in ___ 
-Anemia ___ esrd  
-CAD with positive stress test ___  
-Systolic CHF - EF 20% from ___ TTE; RV systolic 
dysfunction/global free wall hypokinesis; 1+MR; "significant" 
PR.  
-HTN  
-Psoriasis  
-L3 burst fracture w/ neurologic compromise and retropulsion 
onto cauda L2-L4  
-Status post anterior-posterior spinal fusion of ___ 

-MSSA L2-L3 osteo/epidural abscess  
-MSSA Paraspinal abscess  
-Hx of MSSA bacteremia - ___  
-Hypothyroid  
-H/o sacral decub & groin ulcer  
-Restless leg syndrome  
-H/o abdominal fluid collection drained s/p anterior spinal  
fusion

 
Social History:
___
Family History:
Father died of MI in ___ mother alive and well ___; 8 siblings, 
one of whom has HTN, one who has a cerebral aneurysm; he has no 
children.
 
Physical Exam:
T=98.4 BP= HR=98 RR=16 O2= 95% RA
PHYSICAL EXAM
GENERAL: Pleasant, cachectic man in NAD
HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No 
scleral icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No 
LAD, No thyromegaly. 
CARDIAC: Regular rhythm, normal rate. S4 gallop. no murmur 
appreciated
LUNGS: CTAB, good air movement biaterally.
ABDOMEN: NABS. Soft, NT, + distention.  No HSM
EXTREMITIES: 3+ edema at ankles.  L toe with unroofed and 
debrided ulceration and medial aspect of ___ metatarsal
.

 
Pertinent Results:
___ 01:29PM   WBC-6.8 RBC-4.16* HGB-11.4*# HCT-38.2*# 
MCV-92 MCH-27.5 MCHC-29.9* RDW-17.7*
___ 01:29PM   NEUTS-76* BANDS-2 LYMPHS-10* MONOS-7 EOS-5* 
BASOS-0 ___ MYELOS-0
___ 01:29PM   PLT SMR-NORMAL PLT COUNT-228
.
___ 01:29PM   GLUCOSE-86 UREA N-21* CREAT-4.0* SODIUM-144 
POTASSIUM-4.5 CHLORIDE-100 TOTAL CO2-28 ANION GAP-21*
___ 01:35PM   LACTATE-1.9
.
___
Foot Plain films
IMPRESSION: No evidence of acute fracture or subcutaneous gas. 
Please note 
that MRI or triple phase bone scan is more sensitive in 
detection of acute 
osteomyelitis. 

 
Brief Hospital Course:
___ yo man with ESRD on HD, CHF (EF 20%), Multiple MSSA 
infections in past presents with L foot ulcer and cellulitis.
.
#. Cellulitis: Podiatry debrided in ED, plain films without 
evidence of osteomylitis.  Significant erythema of L foot 
surrounding toes.  He received Vanc in ED and was started on 
Cipro/Flagyl for broad coverage.  He remained afebrile without a 
white count and with instructions to f/u with podietry.
.
#. ESRD on HD: unclear etiology for renal failure, but on HD 
___.  He recieved dialysis on ___
- continued sevelamir, nephrocaps, and Epogen
.
#. Systolic CHF: Last ECHO showed EF of 20%.  Currently on RA.
- continue metoprolol, lisinopril, and ASA
.
#. History of C diff: Per prior d/c summary - patient on 
vancomycin long-term given reoccurrence when off of vancomycin 
in the past.
- continued oral Vanc Qday
.
#. Anemia: Has been chronically low at ~ 30. He arrived 
hemoconcentrated, but stablized thereafter.  
- continue epogen
.
#. Restless legs: Possible component of leg pain
- continue dilaudid, gabapentin, and roperinole
.

 
Medications on Admission:
- hydromorphone 2 mg PO q4h prn leg pain  
- levothyroxine 125 mcg daily  
- nephrocaps daily 
- pancrealipase two tablets tid with meals  
- sevelamer 1600 mg tid with meals  
- gabapentin 200 mg qam, 100 mg qhs  
- ropinirole 0.25 mg qhs  
- omeprazole 20 mg daily  
- docusate 100 mg daily  
- aspirin 325 mg daily  
- erythropoeitin ___ units TIW at dialysis  
- lisinopril 5 mg daily  
- Questran 4 grams daily  
- metoprolol tartrate 37.5 mg tid  
- vancomycin 125 mg PO daily (Per prior d/c summary - patient on 
vancomycin long-term given reoccurrence when off of vancomycin 
in the past.)  
- Vitamin B complex  
- Vitamin C  
- Ambien 5mg PO QHS prn insomnia  
.

 
Discharge Medications:
1. Hydromorphone 2 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for pain: Do not drive while taking this 
medication.
Disp:*20 Tablet(s)* Refills:*0*
2. Levothyroxine 125 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. B Complex-Vitamin C-Folic Acid 1 mg Capsule Sig: One (1) Cap 
PO DAILY (Daily).  
4. Amylase-Lipase-Protease 20,000-4,500- 25,000 unit Capsule, 
Delayed Release(E.C.) Sig: Two (2) Cap PO TID W/MEALS (3 TIMES A 
DAY WITH MEALS).  
5. Sevelamer Carbonate 800 mg Tablet Sig: Two (2) Tablet PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  
6. Ropinirole 0.25 mg Tablet Sig: One (1) Tablet PO QPM (once a 
day (in the evening)).  
7. Gabapentin 100 mg Capsule Sig: Two (2) Capsule PO QAM (once a 
day (in the morning)).  
8. Gabapentin 100 mg Capsule Sig: One (1) Capsule PO QPM (once a 
day (in the evening)).  
9. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
10. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).
Disp:*60 Capsule(s)* Refills:*2*
11. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

12. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
13. Cholestyramine-Sucrose 4 gram Packet Sig: One (1) Packet PO 
DAILY (Daily).  
14. Metoprolol Tartrate 25 mg Tablet Sig: 1.5 Tablets PO TID (3 
times a day).  
15. Vancomycin 125 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily) for 28 days.
Disp:*21 Capsule(s)* Refills:*0*
16. Zolpidem 5 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed for insomnia.  
17. Epoetin Alfa 10,000 unit/mL Solution Sig: ___ units 
Injection ASDIR (AS DIRECTED): with dialysis.  
18. Ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q24H 
(every 24 hours) for 12 days: Please take full 14 day course 
until ___.
Disp:*12 Tablet(s)* Refills:*0*
19. Vancomycin in Dextrose 1 gram/200 mL Piggyback Sig: 1000 
(1000) mg Intravenous HD PROTOCOL for 10 days: Please take full 
14 day course until ___.
Disp:*QS * Refills:*0*
20. Flagyl 500 mg Tablet Sig: One (1) Tablet PO every eight (8) 
hours for 12 days: Please take full 14 day course until ___.
Disp:*36 Tablet(s)* Refills:*0*
21. Outpatient Lab Work
Vancomycin level to be drawn and sent to patient's nephrologist 
each HD session.
22. Senna 8.6 mg Tablet Sig: One (1) Tablet PO twice a day: Do 
not take if moving bowels > 2 times per day.
Disp:*60 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Left toe cellulitis
.
Secondary:
End stage renal disease on Hemodialysis

 
Discharge Condition:
good, VSS, on room air, tolerating dialysis

 
Discharge Instructions:
You came to the hospital for an infected ulcer on your L toe.  
Podiatry debrided it and an X-ray shows no evidence of a 
fracture or deep infection.  You were given IV and oral 
antibiotics with good improvement. 
.
Medication changes:
Please take the full course of antibiotics.
Please take your other medications as prescribed.
.
We also discussed the recommendations that were provided to you 
by the physical therapist and while you understand that a brief 
period in rehab would be in your best interest to prevent any 
further complications of your toe wound, your preference would 
be to return home.  We do recommend limiting the amount of 
weight bearing you do on your left foot as it will help with the 
healing of your ulcer.
.
Call your doctor or return to the ED if you have fevers, chills, 
increasing redness, drainage or pus around the wound, chest 
pain, shortness of breath, nausea, vomiting, diarrhea or any new 
or concerning symptoms.
 
Followup Instructions:
___